US09326973B2
To a stirred solution of methyl 2-(5-hydroxytetrahydro-2H-pyran-2-yl)-2-methylpropanoate (187 mg, 0.925 mmol) in DCM (5 mL) containing 4 Å molecular seives (˜250 mg) was added PCC (259 mg, 1.202 mmol). The reaction mixture was stirred at rt for 3 h, then loaded onto a silica gel column and eluted with 10-20% EtOAc in DCM to afford methyl 2-methyl-2-(5-oxotetrahydro-2H-pyran-2-yl)propanoate as a clear oil (105 mg). 1H NMR (400 MHz, CDCl3) δ ppm 4.18 (1H, dd, J=16.56, 1.76 Hz), 3.87-4.01 (2H, m), 3.73 (3H, s), 2.59-2.69 (1H, m), 2.48 (1H, dt, J=17.13, 8.63 Hz), 1.93-2.04 (2H, m), 1.27 (3H, s), 1.15-1.24 (3H, m).

reactant | methyl 2-(5-hydroxytetrahydro-2H-pyran-2-yl)-2-methylpropanoate | 0.925 mmol, 187 mg | OC1CCC(OC1)C(C(=O)OC)(C)C | C10H18O4
reactant | PCC | 1.202 mmol, 259 mg | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-methyl-2-(5-oxotetrahydro-2H-pyran-2-yl)propanoate | 105 mg | CC(C(=O)OC)(C)C1OCC(CC1)=O | C10H16O4
